** sch_path: /home/gfcwfzkm/eda/designs/heichips26-FAIf/macros/heichips26_analog_project/macros/r2r_dac/schematic/xschem/r2r_dac.sch
.subckt r2r_dac PDACVDD ODACOUT IDACVTAP IDACIREF nD7 nD0 nD2 nD4 nD5 nD6 nD3 nD1 PDACVSS IDACDISABLE
*.PININFO PDACVDD:B PDACVSS:B nD0:I nD1:I nD2:I IDACIREF:I ODACOUT:O nD3:I nD4:I nD5:I nD6:I nD7:I IDACVTAP:I IDACDISABLE:I
RR1 net1 PDACVSS 44.668k $SUB=PDACVSS $[rhigh] w=0.5e-6 l=15e-6 b=0
RR2 net8 net1 44.668k $SUB=PDACVSS $[rhigh] w=0.5e-6 l=15e-6 b=0
RR4 net2 nD0 44.668k $SUB=PDACVSS $[rhigh] w=0.5e-6 l=15e-6 b=0
RR5 net7 net2 44.668k $SUB=PDACVSS $[rhigh] w=0.5e-6 l=15e-6 b=0
RR6 net3 nD1 44.668k $SUB=PDACVSS $[rhigh] w=0.5e-6 l=15e-6 b=0
RR7 net6 net3 44.668k $SUB=PDACVSS $[rhigh] w=0.5e-6 l=15e-6 b=0
RR8 net4 nD2 44.668k $SUB=PDACVSS $[rhigh] w=0.5e-6 l=15e-6 b=0
RR9 net5 net4 44.668k $SUB=PDACVSS $[rhigh] w=0.5e-6 l=15e-6 b=0
RR10 net7 net8 44.668k $SUB=PDACVSS $[rhigh] w=0.5e-6 l=15e-6 b=0
RR11 net6 net7 44.668k $SUB=PDACVSS $[rhigh] w=0.5e-6 l=15e-6 b=0
RR12 net5 net6 44.668k $SUB=PDACVSS $[rhigh] w=0.5e-6 l=15e-6 b=0
RR14 UNBUF_DAC net9 41.711k $SUB=PDACVSS $[rhigh] w=0.5e-6 l=14e-6 b=0
RR3 net10 nD3 44.668k $SUB=PDACVSS $[rhigh] w=0.5e-6 l=15e-6 b=0
RR13 net13 net10 44.668k $SUB=PDACVSS $[rhigh] w=0.5e-6 l=15e-6 b=0
RR15 net11 nD4 44.668k $SUB=PDACVSS $[rhigh] w=0.5e-6 l=15e-6 b=0
RR16 net12 net11 44.668k $SUB=PDACVSS $[rhigh] w=0.5e-6 l=15e-6 b=0
RR17 net13 net5 44.668k $SUB=PDACVSS $[rhigh] w=0.5e-6 l=15e-6 b=0
RR18 net12 net13 44.668k $SUB=PDACVSS $[rhigh] w=0.5e-6 l=15e-6 b=0
RR19 net14 nD5 44.668k $SUB=PDACVSS $[rhigh] w=0.5e-6 l=15e-6 b=0
RR20 net17 net14 44.668k $SUB=PDACVSS $[rhigh] w=0.5e-6 l=15e-6 b=0
RR21 net15 nD6 44.668k $SUB=PDACVSS $[rhigh] w=0.5e-6 l=15e-6 b=0
RR22 net16 net15 44.668k $SUB=PDACVSS $[rhigh] w=0.5e-6 l=15e-6 b=0
RR23 net17 net12 44.668k $SUB=PDACVSS $[rhigh] w=0.5e-6 l=15e-6 b=0
RR24 net16 net17 44.668k $SUB=PDACVSS $[rhigh] w=0.5e-6 l=15e-6 b=0
RR25 net18 nD7 44.668k $SUB=PDACVSS $[rhigh] w=0.5e-6 l=15e-6 b=0
RR26 UNBUF_DAC net18 44.668k $SUB=PDACVSS $[rhigh] w=0.5e-6 l=15e-6 b=0
RR27 UNBUF_DAC net16 44.668k $SUB=PDACVSS $[rhigh] w=0.5e-6 l=15e-6 b=0
x1 PDACVDD IDACIREF UNBUF_DAC ODACOUT IDACVTAP PDACVSS IDACDISABLE op_amp_ver_2
MM1 net9 nIDACDISABLE ODACOUT PDACVSS sg13_hv_nmos w=1u l=0.45u ng=1
MM2 ODACOUT IDACDISABLE net9 PDACVDD sg13_hv_pmos w=2u l=0.45u ng=1
RRD2 PDACVSS PDACVSS 44.668k $SUB=PDACVSS $[rhigh] w=0.5e-6 l=15e-6 b=0
RRD1 PDACVSS PDACVSS 44.668k $SUB=PDACVSS $[rhigh] w=0.5e-6 l=15e-6 b=0
RRD3 PDACVSS PDACVSS 41.711k $SUB=PDACVSS $[rhigh] w=0.5e-6 l=14e-6 b=0
MM3 nIDACDISABLE IDACDISABLE PDACVSS PDACVSS sg13_hv_nmos w=0.3u l=0.45u ng=1
MM4 nIDACDISABLE IDACDISABLE PDACVDD PDACVDD sg13_hv_pmos w=0.6u l=0.45u ng=1
.ends

* expanding   symbol:  ../../../opamp/schematic/xschem/op_amp_ver_2.sym # of pins=7
** sym_path: /home/gfcwfzkm/eda/designs/heichips26-FAIf/macros/heichips26_analog_project/macros/r2r_dac/schematic/xschem/../../../opamp/schematic/xschem/op_amp_ver_2.sym
** sch_path: /home/gfcwfzkm/eda/designs/heichips26-FAIf/macros/heichips26_analog_project/macros/r2r_dac/schematic/xschem/../../../opamp/schematic/xschem/op_amp_ver_2.sch
.subckt op_amp_ver_2 POAVDD IOAIREF IOAM OOA IOAP POAVSS IOADISABLE
*.PININFO POAVDD:B IOAM:I IOAP:I OOA:O IOAIREF:I POAVSS:B IOADISABLE:I
MMP13 net1 net1 POAVDD POAVDD sg13_hv_pmos w=2.4u l=0.4u ng=1
MMP14 ptlg ptlg net1 POAVDD sg13_hv_pmos w=2.4u l=0.4u ng=1
MMN16 ptlg ncasc net2 POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1
MMN13 net2 nbias POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1
MMN18 ntlg ntlg net3 POAVSS sg13_hv_nmos w=1.2u l=0.6u ng=1
MMN17 net3 net3 POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.6u ng=1
MMP10 net11 pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1
MMP12 ntlg pcasc net11 POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1
MMP1 net9 pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1 m=4
MMP2 net10 pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1 m=4
MMN1 net9 IOAM net5 POAVSS sg13_hv_nmos w=4.8u l=0.45u ng=1
MMN2 net10 IOAP net5 POAVSS sg13_hv_nmos w=4.8u l=0.45u ng=1
MMN3 net4 nbias POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=8
MMN6 net5 ncasc net4 POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1 m=8
MMN7 net8 ncasc net7 POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1 m=8
MMN8 ndrive ncasc net6 POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1 m=8
MMN4 net7 net8 POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=8
MMN5 net6 net8 POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=8
MMP3 net9 pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1 m=4
MMP5 net8 pcasc net9 POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=8
MMP4 net10 pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1 m=4
MMP6 pdrive pcasc net10 POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=8
MMP7 ndrive ptlg pdrive POAVDD sg13_hv_pmos w=2.4u l=0.4u ng=1 m=4
MMN9 pdrive ntlg ndrive POAVSS sg13_hv_nmos w=1.2u l=0.6u ng=1 m=4
MMP8 OOA pdrive POAVDD POAVDD sg13_hv_pmos w=2.4u l=0.4u ng=1 m=40
MMN10 OOA ndrive POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.6u ng=1 m=40
MMN20 IOAIREF IOAIREF POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1
MMN21 pcasc IOAIREF POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1
MMN22 pbias IOAIREF POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1
MMN23 net19 ncasc POAVSS POAVSS sg13_hv_nmos w=0.4u l=10u ng=1
MMN25 net13 nbias POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1
MMN24 ncasc ncasc net22 POAVSS sg13_hv_nmos w=0.4u l=10u ng=1
MMN26 nbias ncasc net13 POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1
MMP21 pcasc pcasc net18 POAVDD sg13_hv_pmos w=1u l=10u ng=1
MMP20 net18 pcasc net17 POAVDD sg13_hv_pmos w=1u l=10.0u ng=1
MMP22 net12 pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1
MMP25 pbias pcasc net12 POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1
MMP26 ncasc pcasc net15 POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1
MMP23 net15 pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1
MMP24 net14 pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1
MMP27 nbias pcasc net14 POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1
MMP16 net17 pcasc net16 POAVDD sg13_hv_pmos w=1u l=10.0u ng=1
MMN11 net20 ncasc net19 POAVSS sg13_hv_nmos w=0.4u l=10u ng=1
MMP28 net16 pcasc POAVDD POAVDD sg13_hv_pmos w=1u l=10.0u ng=1
MMN12 net21 ncasc net20 POAVSS sg13_hv_nmos w=0.4u l=10u ng=1
MMN14 net22 ncasc net21 POAVSS sg13_hv_nmos w=0.4u l=10u ng=1
MMDP1 POAVDD pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1
MMDP2 POAVDD pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1
MMDOP1 POAVDD pcasc POAVDD POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1
MMDOP2 POAVDD pcasc POAVDD POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1
MMDOP3 POAVDD pcasc POAVDD POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1
MMDOP4 POAVDD pcasc POAVDD POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1
MMDN1 POAVSS nbias POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1
MMDN2 POAVSS nbias POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1
MMDON1 nIOADISABLE IOADISABLE POAVSS POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1
MMDON2 ntlg IOADISABLE POAVSS POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1
MMDON3 ndrive IOADISABLE POAVSS POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1
MMDON4 IOAIREF IOADISABLE POAVSS POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1
MMDP7 POAVDD pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1
MMDP8 POAVDD pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1
MMDN7 POAVSS nbias POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1
MMDN8 POAVSS nbias POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1
MMDN9 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.45u ng=1
MMDN10 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.45u ng=1
MMDN11 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.45u ng=1
MMDN12 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.45u ng=1
MMDN13 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=2.4u l=0.45u ng=1
MMDN14 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=2.4u l=0.45u ng=1
MMDN15 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=2.4u l=0.45u ng=1
MMDN16 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=2.4u l=0.45u ng=1
MMDN17 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.45u ng=1
MMDN18 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.45u ng=1
MMDN19 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.45u ng=1
MMDN20 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.45u ng=1
MMDN21 POAVSS IOAIREF POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1
MMDN22 POAVSS IOAIREF POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1
MMDP9 POAVDD pcasc POAVDD POAVDD sg13_hv_pmos w=1u l=10u ng=1
MMDN23 POAVSS ncasc POAVSS POAVSS sg13_hv_nmos w=0.4u l=10u ng=1
MMDP10 POAVDD pcasc POAVDD POAVDD sg13_hv_pmos w=1u l=10u ng=1
MMDN24 POAVSS ncasc POAVSS POAVSS sg13_hv_nmos w=0.4u l=10u ng=1
MMDP11 POAVDD pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1
MMDP12 POAVDD pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1
MMDP13 POAVDD pcasc POAVDD POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1
MMDP14 POAVDD pcasc POAVDD POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1
MMDN25 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1
MMDN26 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1
MMDN27 POAVSS ncasc POAVSS POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1
MMDN28 POAVSS ncasc POAVSS POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1
MMDP15 POAVDD POAVDD POAVDD POAVDD sg13_hv_pmos w=2.4u l=0.4u ng=1 m=8
MMDN29 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.6u ng=1 m=8
MMDP16 POAVDD POAVDD POAVDD POAVDD sg13_hv_pmos w=2.4u l=0.4u ng=1 m=2
MMDN30 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.6u ng=1 m=2
MMDP17 POAVDD POAVDD POAVDD POAVDD sg13_hv_pmos w=2.4u l=0.4u ng=1 m=8
MMDN31 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.6u ng=1 m=8
MMDOP5 nIOADISABLE IOADISABLE POAVDD POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1
MMDOP6 ptlg nIOADISABLE POAVDD POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1
MMDOP7 pdrive nIOADISABLE POAVDD POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1
MMDOP8 pcasc nIOADISABLE POAVDD POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1
.ends

